US07723325B2
Intermediate 4-[2-(4,4-difluoro-piperidine-1-carbonyl)-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester
The title compound was synthesized in analogy to Example 1, from 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid, 4,4-difluoropiperidine hydrochloride, triethylamine and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride, to afford the product as a yellow solid (87%).

reactant | 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)O | C20H25N3O5
reactant | 4,4-difluoropiperidine hydrochloride | Cl.FC1(CCNCC1)F
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-[2-(4,4-difluoro-piperidine-1-carbonyl)-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)N1CCC(CC1)(F)F | C25H32F2N4O4
